US07410976B2
5-Acetoxy-1-cyclopropyl-isoquinoline-7-carboxylic acid methyl ester.
2-[1-(2-Cyclopropyl-pyridin-3-yl)-methylidene]-succinic acid 1-methyl ester (18.9 g, 72.4 mmol), sodium acetate (5.94 g, 72.4 mmol) was suspended in AcOH (150 ml) and heated at 155° C. for 6 h. After cooling to room temperature, the mixture was concentrated in vacuo. The residue was purified by silica gel column chromatography (hexane/EtOAc=10/0 to 6/4) to obtain the intended compound as a pale yellow solid.

reactant | 2-[1-(2-Cyclopropyl-pyridin-3-yl)-methylidene]-succinic acid 1-methyl ester | 72.4 mmol, 18.9 g | COC(C(CC(=O)O)=CC=1C(=NC=CC1)C1CC1)=O | C14H15NO4
reactant | sodium acetate | 72.4 mmol, 5.94 g | C(C)(=O)[O-].[Na+]
solvent | AcOH | 150 ml | CC(=O)O | C2H4O2
product | 5-Acetoxy-1-cyclopropyl-isoquinoline-7-carboxylic acid methyl ester | COC(=O)C1=CC(=C2C=CN=C(C2=C1)C1CC1)OC(C)=O | C16H15NO4
